Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
vancomycin / latex
 
Attending: ___.
 
Chief Complaint:
Right upper quadrant pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ y.o. woman who presented to the ___ ED 
with RUQ pain. She had a first episode 2 weeks prior which 
brought her into the ED where a RUQ US showed only a single 
gallstone and no other findings. She reported that these 
symptoms appeared to have some association with meals. She was 
discharged home with pain medication. Her pain was well 
controlled for about 4 days but then returned, more severe, 
waxing and waning, still localized to the RUQ. She reports 
measuring fevers of 101-102 at home. She had nausea and multiple 
episodes of emesis, the last on the morning of presentation. She 
was unable to take POs for the last 2 days. 

 
Past Medical History:
PUD
Appendectomy
 
Social History:
+Smokes less than 1 ppd of cigarettes. 
Denies EtOH use. 
LPN Student

 
Physical Exam:
V: BP 130/85, R 18, P 77
Gen: Well-appearing obese female in NAD
ENT: Normal
Eyes: Normal
CV RRR
Chest: Clear bilaterally
Abdomen soft, focal tenderness benign R costal margin in RUQ 
w/o,tenderness to palpation along R rib line, no rebound or 
guarding
Skin: No rashes

 
Pertinent Results:
___ 02:24PM   GLUCOSE-84 UREA N-13 CREAT-0.9 SODIUM-138 
POTASSIUM-4.4 CHLORIDE-101 TOTAL CO2-26 ANION GAP-15
___ 02:24PM   estGFR-Using this
___ 02:24PM   ALT(SGPT)-14 AST(SGOT)-20 ALK PHOS-92 TOT 
BILI-0.2
___ 02:24PM   LIPASE-34
___ 02:24PM   ALBUMIN-4.1
___ 02:24PM   WBC-12.8* RBC-4.85 HGB-12.6 HCT-38.7 MCV-80* 
MCH-25.9* MCHC-32.5 RDW-15.1
___ 02:24PM   NEUTS-65.8 ___ MONOS-4.2 EOS-2.4 
BASOS-0.3
___ 02:24PM   PLT COUNT-395
 
Brief Hospital Course:
Ms. ___ is a ___ woman who had been seen recently in the ED for 
biliary colic, who returned to the ___ ED with RUQ pain, 
fever, and a question of cholecystitis. Although cholelithiasis 
had been evident on previous ultrasound, her U/S showed no 
cholelithiasis or signs of cholecystitis (no pericholecystic 
fluid or all edema/thickening). This was on ___, HD1. She 
was admitted for further work up at that time.

On HD#2 a HIDA was obtained which was negative for gallbladder 
pathology. 
Her pain improved significantly with pain medication throughout 
the day, and she was seen by GI in consultation. Their 
recommendations were obtaining an MRCP as an outpatient as well 
as an EGD to rule out PUD given a history of PUD symptoms. It 
was also suggested that she continue to take her PPI daily.

Her abdominal exam at that point was thought to be 
musculoskeletal in nature by GI, and given her improved 
abdominal pain and largely negative work up she was discharged 
on the evening of HD#2 in stable condition, complaining of 
minimal abdominal pain and with an appropriate dose of pain 
medications. 

She was given instructions to follow up in clinic with her PCP 
as well as gastroenterologist as an outpatient. 
 
Discharge Medications:
1. Omeprazole 20 mg PO DAILY 
2. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right upper quadrant pain 

 
Discharge Condition:
Stable
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for abdominal pain. An 
ultrasound was done that did not show evidence of gallstones or 
gallbladder infection. Another test of your gallbladder was 
performed (HIDA) that showed that it had normal function.  You 
were examined by a gastrointestinal team that recommended that 
you receive an endoscopic gastrointestinal test as an 
outpatient. 
 
Followup Instructions:
___